US08610345B2
A mixed solution of 59 g of 1-bromopyrene, 40 g of p-chlorophenylboronic acid, 108 g of tripotassium phosphate, g of tetrabutylammonium bromide, 1.15 g of palladium acetate and 1,250 ml of dimethylformamide was heated and stirred under a nitrogen gas stream at 130° C. for 3 hours. The solution was cooled to room temperature and 1,000 ml of water was poured into the solution, followed by filtration. The resulting solid was washed with 200 ml of methanol, dissolved in 1,000 ml of dichloromethane, dried over magnesium sulfate, filtered through Celite and then evaporated. The resulting solid was washed with 200 ml of methanol and then vacuum-dried to obtain 58.2 g of 1-(4-chlorophenyl)pyrene.

reactant | 1-bromopyrene | 59 g | BrC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H9Br
reactant | p-chlorophenylboronic acid | 40 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | tripotassium phosphate | 108 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylformamide | 1,250 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 1.15 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1,000 ml | O | H2O
product | 1-(4-chlorophenyl)pyrene | 58.2 g | ClC1=CC=C(C=C1)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C22H13Cl
